US07405299B2
B. Preparation of 4-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-indole-1-carboxylic Acid tert-Butyl Ester
The titled intermediate was made via Preparation 33 (General Suzuki Coupling Method D) from 4-bromo-indole-1-carboxylic acid tert-butyl ester and 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid (Preparation 5). MS (ESI) m/e 401 (M+1). TLC (SiO2): Rf0.5 (1:1 methylene chloride/[80:18:2 chloroform/methanol/concentrated aqueous ammonium hydroxide]).

reactant | 4-bromo-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=C(C=CC=C12)Br | C13H14BrNO2
reactant | 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)B(O)O | C11H12BN3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-indole-1-carboxylic Acid tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C=CC2=C(C=CC=C12)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C24H24N4O2
